US04571396
7-[2,5-Diazabicyclo(2.2.1)hept-2-yl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (a)
A solution of 0.54 g (2.0 mmol) of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.57 g (2.2 mmol) of 2,5-diazabicyclo(2.2.1)heptane dihydrobromide [P. S. Portoghese and A. A. Mikhail, J. Org. Chem., 31, 1059 (1966)], 0.90 ml (6.0 mmol) of 1,8-diazabicyclo(5.4.0)undec-7ene, and 20 ml of acetonitrile was heated under reflux for one hour and stirred at room temperature for two hours. The reaction mixture was filtered and the solid was washed with ethanol to give 0.60 g of the title compound, mp 275° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.0 mmol, 0.54 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 2,5-diazabicyclo(2.2.1)heptane dihydrobromide | 2.2 mmol, 0.57 g | Br.Br.C12NCC(NC1)C2
reactant | 1,8-diazabicyclo(5.4.0)undec-7ene | 6.0 mmol, 0.90 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-[2,5-Diazabicyclo(2.2.1)hept-2-yl]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.60 g | C12N(CC(NC1)C2)C2=C(C=C1C(C(=CN(C1=C2F)CC)C(=O)O)=O)F | C17H17F2N3O3
